US07625909B2
Step 1. Synthesis of S-ethyl(2R)-2-{[(benzyloxy)carbonyl]-amino}propanethioate
A 250 mL round bottom flask was charged with benzyloxy-carbonyl-L alanine (15.0 g, 67.2 mmol) and 67.2 mL of dichloromethane. To this mixture was added DMAP (0.82 g, 6.72 mmol) and chilled EtSH (0° C., 5.46 mL, 73.9 mmol) followed by the addition of DCC (15.2 g, 73.9 mmol) in one portion. The addition of the DCC is highly exothermic so the reaction will bubble upon addition, and the reaction should be kept well vented. The resulting mixture was stirred for 30 minutes at 22° C. The resulting white solid was then removed by vacuum filtration, and the filtrate was concentrated. Silica Gel chromatography using hexanes with polarization to 8:1 hexanes/ethyl acetate afforded 93% yield (18.0g, 62.5 mmol) of the desired product as a colorless oil.

reactant | benzyloxy-carbonyl-L alanine | 67.2 mmol, 15.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | EtSH | 73.9 mmol, 5.46 mL | CCS | C2H6S
reactant | DCC | 73.9 mmol, 15.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 6.72 mmol, 0.82 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 67.2 mL | ClCCl | CH2Cl2
product | S-ethyl(2R)-2-{[(benzyloxy)carbonyl]-amino}propanethioate | 62.5 mmol, 18.0g, 93% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(SCC)=O)C | C13H17NO3S
